US07863450B2
6.3 Synthesis of 2-{6-[3-(2-methylpyrrolidin-1-yl)propoxy]pyridin-3-yl}-3-oxa-1-azaspiro[4.5]dec-1-ene 16.
2-(6-chloropyridin-3-yl)-3-oxa-1-azaspiro[4.5]dec-1-ene ax49 (0.109 g, 0.76 mmol, 1 eq) and potassium tert-butanolate (0.102 g, 0.91 mmol, 1.2 eq) are added to a cold (0° C.) solution of 3-(2-methylpyrrolidin-1-yl)propan-1-ol (0.2 g, 0.8 mmol, 1.05 eq) in tetrahydrofuran (4 ml). The mixture is stirred under microwave irradiation (150 W) at 60° C. for 21 min. Ethyl acetate is then added. The organic layer is washed with a saturated solution of sodium hydrogenocarbonate, dried over magnesium sulfate and the solvent is removed under vacuum to give 0.227 g of yellow oil. The oil is purified over silica (eluent: dichloromethane/methanol/ammonia 97:2.7:0.3) to give 0.149 g of 2-{6-[3-(2-methylpyrrolidin-1-yl)propoxy]pyridin-3-yl}-3-oxa-1-azaspiro[4.5]dec-1-ene 16 as a yellow oil.

reactant | 2-(6-chloropyridin-3-yl)-3-oxa-1-azaspiro[4.5]dec-1-ene | ClC1=CC=C(C=N1)C1=NC2(CO1)CCCCC2 | C13H15ClN2O
reactant | potassium tert-butanolate | 0.91 mmol, 0.102 g, 1.2 eq | C(C)(C)(C)[O-].[K+]
reactant | 3-(2-methylpyrrolidin-1-yl)propan-1-ol | 0.8 mmol, 0.2 g, 1.05 eq | CC1N(CCC1)CCCO | C8H17NO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-{6-[3-(2-methylpyrrolidin-1-yl)propoxy]pyridin-3-yl}-3-oxa-1-azaspiro[4.5]dec-1-ene | 0.227 g, Yield: 55% | CC1N(CCC1)CCCOC1=CC=C(C=N1)C1=NC2(CO1)CCCCC2 | C21H31N3O2
